US20010053779A1
A mixture comprising 3-methylamino-4-nitrobenzoic acid (13.0 g, 66.3 mmol), PyBOP (38.0 g, 73.0 mmol), hydroxybenztriazole hydrate (9.9 g, 73.0 mmol), dimethylformamide (100 mL) and N-methylmorpholine (18.3 mL) was stirred at room temperature for 15 minutes and then 2-naphthylene-1-ylethylamine (13.8 g, 66.3 mmol) was added. The mixture was stirred for an additional 30 minutes and concentrated in vacuo. The residue was portioned between water and ethyl acetate and the organic layer was washed with water, 0.1M aqueous hydrochloric acid, saturated aqueous sodium hydrogencarbonate and then saturated aqueous sodium chloride, dried (magnesium sulfate), filtered and concentrated in vacuo. The residue was purified by recrystallization from hot ethanol to give 3-methylamino—N-(2-naphthalene-1-yl-ethyl)-4-nitrobenzamide as a bright red crystalline solid (21.3 g, 92% yield); 1H-NMR (300 MHz, DMSO-d6): 8.8 (t), 8.3 (d), 8.2 (q), 8.1 (d), 7.9 (d), 7.8 (d), 7.6-7.3 (m), 7.2 (s), 7.0 (d), 3.6 (q), 3.3 (t), 3.0 (d).

reactant | 3-methylamino-4-nitrobenzoic acid | 66.3 mmol, 13.0 g | CNC=1C=C(C(=O)O)C=CC1[N+](=O)[O-] | C8H8N2O4
reactant | PyBOP | 73.0 mmol, 38.0 g | C1CCN(C1)[P+](N2CCCC2)(N3CCCC3)ON4C5=C(C=CC=C5)N=N4.F[P-](F)(F)(F)(F)F
reactant | hydroxybenztriazole hydrate | 73.0 mmol, 9.9 g | O.OC1=CC=CC=2NN=NC21
reactant | N-methylmorpholine | 18.3 mL | CN1CCOCC1 | C5H11NO
solvent | dimethylformamide | 100 mL | CN(C=O)C | C3H7NO
product | 3-methylamino—N-(2-naphthalene-1-yl-ethyl)-4-nitrobenzamide | 21.3 g, 92% yield | CNC=1C=C(C(=O)NCCC2=CC=CC3=CC=CC=C23)C=CC1[N+](=O)[O-] | C20H19N3O3
